US07943622B2
Step 2. Synthesis of (5-bromothiophen-2-yl)(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)methanone dihydrochloride
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to a solution of tert-butyl 4-(5-bromothiophene-2-carbonyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate (192.6 mg, 0.399 mmol) in MeOH (1 mL). After 1 h, the reaction mixture was concentrated under reduced pressure and purified by HPLC (5 to 50% MeCN/0.1% TFA in H2O/0.1% TFA gradient). The desired chromatography fractions were concentrated under reduced pressure, dissolved in MeOH (1 mL), and treated with 4 M HCl in 1,4-dioxane (6 mL). This was concentrated under reduced pressure, yielding 108 mg (59%) of the desired product as a white solid. LC-MS: RT=4.16 min, [M+H]+=382.0.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl 4-(5-bromothiophene-2-carbonyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate | 0.399 mmol, 192.6 mg | BrC1=CC=C(S1)C(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)COC=1C=NC=CC1 | C20H24BrN3O4S
solvent | MeOH | 1 mL | CO | CH4O
product | (5-bromothiophen-2-yl)(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)methanone dihydrochloride | 108 mg, 59% | Cl.Cl.BrC1=CC=C(S1)C(=O)N1C(CNCC1)COC=1C=NC=CC1 | InChI=1S/C15H16BrN3O2S.2ClH/c16-14-4-3-13(22-14)15(20)19-7-6-18-8-11(19)10-21-12-2-1-5-17-9-12;;/h1-5,9,11,18H,6-8,10H2;2*1H
